US08865918B2
In a 200 ml 2-neck round bottom flask, equipped with a magnetic stirrer and a cold water condenser, 4-nitrophenylhydrazine was dissolved in 75 mL concentrated hydrochloric acid and stirred at room temperature for 15 minutes. A solution of 2-hexanone (5 mL) in ethanol (25 mL) was added slowly and the reaction flask was heated in an oil bath at 105° C. for 18 h. The mixture was cooled to room temperature and water (100 mL) was added. The mixture was extracted with EtOAc. The organic layer washed with saturated sodium bicarbonate solution, water, and brine solutions and evaporated to dryness. The oily residue was absorbed on silica gel and purified by silica gel chromatography with 20% EtOAc in Hexane solution to give 2-methyl-5-nitro-3-propyl-1H-indole. This indole product was dissolved in trifluoroacetic acid (10 mL) and 1 pellet sodium borohydride (0.7 g) was added and the reaction was stirred at room temperature for 18 h. Water (10 mL) was carefully added and the reaction mixture was extracted twice with EtOAc (15 mL). The organic layer washed with brine and dried over MgSO4, and purified by flash column chromatography on silica gel eluted with 20% EtOAc in hexanes to give 280 mg of 2-methyl-5-nitro-3-propyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-indole.

reactant | 4-nitrophenylhydrazine | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | 2-hexanone | 5 mL | CC(CCCC)=O | C6H12O
reactant | water | 100 mL | O | H2O
solvent | hydrochloric acid | 75 mL | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-methyl-5-nitro-3-propyl-1H-indole | CC=1NC2=CC=C(C=C2C1CCC)[N+](=O)[O-] | C12H14N2O2
